Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])=[O:9]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-1.93821954242
[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7])[O:9][H:10].[H:8]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6](=[C:7][H:8])[O:9][H:10],-4.774928035109999
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][O:3][C:4]([H:5])=[C:6][H:7]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.91595140411
[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]([H:3])[C:8]([H:9])([H:10])[O:11][H:12],0.8991306891899999
[H:1][O:2][C:3][C:4]([H:5])([H:6])[H:7]>>[C:3][C:4]([H:5])([H:6])[H:7].[H:1][O:2],6.44508266698
[C:1].[C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11],-3.93784208596
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13].[O:1],4.14504634297
[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12],2.2753623945
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12],1.4353152688100002
[H:11].[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([H:4])[O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-2.07816711811
[H:11].[H:1][C:2][C:3]([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.76842437745
[O:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8],2.93754452865
[H:1][C:2]([H:3])[C:4]#[C:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[H:1][C:2]([H:3])([C:4]#[C:5][C:6][C:10]([H:11])[H:12])[H:13],5.847671019680001
[C:1].[C:2](/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[C:2](/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.82442675393
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-5.3732393749
[C:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:1]#[C:2][H:3].[C:4]([H:5])([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],1.15589555197
[C:10]([H:11])([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][H:9]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-1.95996080932
[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],4.06436319104
[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5].[O:6]=[C:7][O:8][C:9]([H:10])([H:11])[H:12],1.88404829714
[H:1][C:2]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:3]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6]/[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.97631872234
[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])=[C:10]([H:11])[H:12].[H:9],1.6735951672799998
[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][O:12][H:13]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:12][H:13],-3.66243513895
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[H:1][C:2],8.45953384276
[C:5]([H:6])([H:7])=[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],1.8485062852
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[O:10]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])([H:13])[H:14],-0.82983036273
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][H:4],5.11015148
